US06521666B1
N-(2,6-Dichlorobenzoyl)-4-(2,6-dimethoxy-3methoxymethoxyphenyl)-L-phenylalanine methyl ester (165 mg) was dissolved in MeOH (5 mL) and HCl in dioxane (4 M, 1 mL) was added to the mixture. The mixture was stirred at room temperature for 3 h. The mixture was evaporated and the residue was taken up with water (40 mL) and extracted with CH2Cl2. The extract was dried (MgSO4), filtered and evaporated. The residue was purified by preparative TLC (silica gel; eluent: hexane and AcOEt 3:1 to 1:1) to give N-(2,6-dichlorobenzoyl)-4-(2,6-dimethoxy-3-hydroxyphenyl)-L-phenylalanine methyl ester (145 mg ).

reactant | N-(2,6-Dichlorobenzoyl)-4-(2,6-dimethoxy-3methoxymethoxyphenyl)-L-phenylalanine methyl ester | 165 mg | COC([C@@H](NC(C1=C(C=CC=C1Cl)Cl)=O)CC1=CC=C(C=C1)C1=C(C(=CC=C1OC)OCOC)OC)=O | C27H27Cl2NO7
reactant | HCl | Cl | ClH
solvent | MeOH | 5 mL | CO | CH4O
solvent | dioxane | 4 M, 1 mL | O1CCOCC1 | C4H8O2
product | N-(2,6-dichlorobenzoyl)-4-(2,6-dimethoxy-3-hydroxyphenyl)-L-phenylalanine methyl ester | 145 mg | COC([C@@H](NC(C1=C(C=CC=C1Cl)Cl)=O)CC1=CC=C(C=C1)C1=C(C(=CC=C1OC)O)OC)=O | C25H23Cl2NO6
